US08013186B2
To a solution of 2,2-difluoro-2-(4-fluorophenoxy)-N-methoxy-N-methylacetamide (2.03 g, 8.1 mmol) in anhydrous THF (15 ml) at 0° C., a solution of 1 M of lithium aluminum hydride in THF (4.05 ml, 4.05 mmol) was added. After stirring the solution for 3 h, 1N NaOH (2 ml) and ethyl ether (15 ml) were added. After 30 min, the reaction mixture was filtered through Celite and the cake was washed several times with ethyl ether. The organic phase was washed with brine and dried over sodium sulfate. The solvent was removed and the crude was purified using a short plug of silica gel to give 2,2-difluoro-2-(4-fluorophenoxy)-1-(N-methoxy-N-methylamino)ethanol as an oil (1.15 g, 57%).

reactant | 2,2-difluoro-2-(4-fluorophenoxy)-N-methoxy-N-methylacetamide | 8.1 mmol, 2.03 g | FC(C(=O)N(C)OC)(OC1=CC=C(C=C1)F)F | C10H10F3NO3
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
reactant | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 4.05 mmol, 4.05 ml | C1CCOC1 | C4H8O
product | 2,2-difluoro-2-(4-fluorophenoxy)-1-(N-methoxy-N-methylamino)ethanol | 1.15 g, 57% | FC(C(O)N(C)OC)(OC1=CC=C(C=C1)F)F | C10H12F3NO3
